US07851473B2
N-Imidazo[1,2-b]pyridazin-6-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl imidazo[1,2-b]pyridazin-6-ylcarbamate (198 mg, 0.408 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (200 mg, 0.815 mmol) and diisopropylethylamine (0.076 ml, 0.408 mmol) in dimethylsulfoxide (2.7 ml) was stirred at 70° C. for 15 hours. Water was poured into the reaction solution, and the mixture was exacted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 110 mg (66.5%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl imidazo[1,2-b]pyridazin-6-ylcarbamate | 0.408 mmol, 198 mg | N=1C=CN2N=C(C=CC21)NC(OCC(Cl)(Cl)Cl)=O | C9H7Cl3N4O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.815 mmol, 200 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.408 mmol, 0.076 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.7 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Imidazo[1,2-b]pyridazin-6-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 110 mg, 66.5% | N=1C=CN2N=C(C=CC21)NC(=O)N2CCN(CC2)C=2SC=C(N2)C2=CC=CC=C2 | C20H19N7OS
